US07691879B2
1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile
42 mg of 6-methoxy-1-oxo-4-(3-fluorophenyl)-1,2-dihydroisoquinoline-3-carbonitrile in 3 mL POCl3 was heated from room temp to 80 C. After 2 h, the temperature was raised to 90 C, and heating was continued for 20 h. The reaction was concentrated, redissolved in EtOAc, cooled to 0 C, and saturated aqueous sodium bicarbonate was added dropwise to quench the remaining reagent. The mixture was separated, and the aqueous solution was extracted with EtOAc (3×). The combined organic solutions were dried over MgSO4 and concentrated. Flash chromatography (3% to 30% EtOAc in hexanes) gave a white solid.

reactant | 6-methoxy-1-oxo-4-(3-fluorophenyl)-1,2-dihydroisoquinoline-3-carbonitrile | 42 mg | COC=1C=C2C(=C(NC(C2=CC1)=O)C#N)C1=CC(=CC=C1)F | C17H11FN2O2
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H10ClFN2O
